US04548932
To a solution of sodium (0.48 g) in ethanol (30 ml) are added ethyl 7-(1-benzyloxycarbonyl-4-piperidyl)heptanoate (6.5 g) and diethyl oxalate (3 g). The mixture is evaporated under reduced pressure at 60°-70° C. for 1 hour. After cooling, water (150 ml) is added to the residue. The mixture is acidified with hydrochloric acid and extracted with ethyl acetate (300 ml). The extract is dried over anhydrous magnesium sulfate and evaporated in vacuo. The oily residue is dissolved in a mixture of dimethylsulfoxide (54 ml), water (6 ml) and lithium chloride (1 g). The resulting solution is stirred for 1 hour at 140° C., cooled, diluted with water (150 ml) and extracted with ethyl acetate (300 ml). The extract is washed with water, dried over anhydrous magnesium sulfate and evaporated in vacuo to yield ethyl 8-(1-benzyloxycarbonyl-4-piperidyl)-2-oxooctanoate (6 g) as an oil.

reactant | sodium | 0.48 g | [Na] | Na
reactant | ethyl 7-(1-benzyloxycarbonyl-4-piperidyl)heptanoate | 6.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCCC(=O)OCC | C22H33NO4
reactant | diethyl oxalate | 3 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 8-(1-benzyloxycarbonyl-4-piperidyl)-2-oxooctanoate | 6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCCC(C(=O)OCC)=O | C23H33NO5
